US08530468B2
8-Fluoroisoquinolin-3-ol
2,2-Diethoxy-N-(2-fluorobenzyl)acetamide (4.1 g, 16.0 mmol) was stirred in concentrated sulfuric acid (10 mL) for 16 hours. The reaction mixture was poured onto ice and neutralized by the addition of ammonium hydroxide forming a precipitate which was removed by filtration. The filtrate was extracted with ethyl acetate three times, and the combined organic phases were rinsed with brine then dried (Na2SO4) and concentrated to dryness affording an oily solid. Trituration with ether afforded the title compound (1.56 g, 9.6 mmol, 60% over 2 steps). LC-MS (3) Rt=1.00 min; m/z (ESI+) 164 (M+H).

reactant | 2,2-Diethoxy-N-(2-fluorobenzyl)acetamide | 16.0 mmol, 4.1 g | C(C)OC(C(=O)NCC1=C(C=CC=C1)F)OCC | C13H18FNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ether | CCOCC | C4H10O
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 8-Fluoroisoquinolin-3-ol | 9.6 mmol, 1.56 g, 60% | FC=1C=CC=C2C=C(N=CC12)O | C9H6FNO
